US04689339
2,3-Dihydro-1H-inden-2-yl glyoxal diethyl acetal
0.73 g of magnesium turnings are covered with 90 ml of dry diethylether. To that mixture is then added 6 g of 2-bromoindane in 20 ml of dry diethylether at such a rate that a gentle boiling is maintained. When the magnesium turnings have reacted the solution containing the Grignard reagent is cooled to room temperature. The reaction mixture is then added dropwise, over a period of 3 hours, to a cooled (0°-5° C. solution of diethoxyacetic acid piperidinyl amide (6.4 g) in 20 ml of dry diethylether. After the addition is complete, the reaction mixture is stirred for two hours at about 5° C. The mixture is then poured into a cold 2% sulfuric acid solution (50 ml). The solution is extracted with ether and the combined ether extracts are washed with water and evaporated to dryness to give a residue of crude product, which is used without purification in step (b).

reactant | magnesium | 0.73 g | [Mg] | Mg
reactant | 2-bromoindane | 6 g | BrC1CC2=CC=CC=C2C1 | C9H9Br
reactant | diethoxyacetic acid piperidinyl amide | 6.4 g | N1(CCCCC1)NC(C(OCC)OCC)=O | C11H22N2O3
reactant | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 90 ml | C(C)OCC | C4H10O
product | 2,3-Dihydro-1H-inden-2-yl glyoxal diethyl acetal | C(C)OC(C=O)(C1CC2=CC=CC=C2C1)OCC | C15H20O3
